US04643849
In 35 ml of 21% (by weight) hydrochloric acid-isopropanol solution was suspended 2.1 g of thiourea, and 5 g of 5-(dimethylamino)methyl-4-methyl-2-thenyl alcohol was added thereto, after which the resulting mixture was subjected to reaction under reflux for 15 hours. After the mixture was allowed to stand at room temperature, the crystals deposited were collected by filtration to obtain 7 g (yield 82%) of 2-amidinothiomethyl-5-(dimethylamino)methyl-4-methylthiophene dihydrochloride having a melting point of 212°-214° C. (decomp.).

reactant | hydrochloric acid isopropanol | Cl.C(C)(C)O
reactant | thiourea | 2.1 g | NC(=S)N | CH4N2S
reactant | 5-(dimethylamino)methyl-4-methyl-2-thenyl alcohol | 5 g | CN(C)CC1=C(C=C(S1)CO)C | C9H15NOS
product | 2-amidinothiomethyl-5-(dimethylamino)methyl-4-methylthiophene dihydrochloride | 7 g, yield 82% | Cl.Cl.C(N)(=N)SCC=1SC(=C(C1)C)CN(C)C | InChI=1S/C10H17N3S2.2ClH/c1-7-4-8(6-14-10(11)12)15-9(7)5-13(2)3;;/h4H,5-6H2,1-3H3,(H3,11,12);2*1H
